US05374772
A mixture of 2.0 g of 3-[[6-[2,3-bis(phenylmethoxy)phenyl]hexyl]oxy]-5-(octadecyloxy)benzoic acid phenylmethyl ester and 0.5 g of 10% palladium on carbon in 100 ml of THF was stirred in a hydrogen atmosphere until uptake ceased after 5 hours. The usual workup followed by trituration of the crude product with hexane gave 1.2 g (88% yield, mp 92°-94°) of 3-[[6-(2,3-dihydroxyphenyl) hexyl]oxy]-5-(octadecyloxy)benzoic acid.

reactant | 3-[[6-[2,3-bis(phenylmethoxy)phenyl]hexyl]oxy]-5-(octadecyloxy)benzoic acid phenylmethyl ester | 2.0 g | C1(=CC=CC=C1)COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C58H76O6
reactant | hydrogen | [H][H] | H2
reactant | hexane | CCCCCC | C6H14
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-[[6-(2,3-dihydroxyphenyl) hexyl]oxy]-5-(octadecyloxy)benzoic acid | 1.2 g, 88% yield | OC1=C(C=CC=C1O)CCCCCCOC=1C=C(C(=O)O)C=C(C1)OCCCCCCCCCCCCCCCCCC | C37H58O6
